US06891066B2
2,3,4-Trifluorobenzoic acid and methyl 4-aminobenzoate were reacted in the presence of LiHMDS solution in THF by the general procedure of Example 1, Step B, to afford after workup, crude 3,4-difluoro-2-[[4-(methoxycarbonyl)-phenyl]amino]benzoic acid as a cream solid. This material was then coupled directly with 2-(aminooxy)ethanol by the general procedure of Example 1, Step E, and purified on flash silica (10% EtOAc as eluant) to give methyl 4-[[2,3-difluoro-6-[[(2-hydoxyethoxy)amino]carbonyl]phenyl]amino]benzoate (48%) as a white solid; m.p. (EtOAc/hexanes) 158-160° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.64 (br s, 1 H), 8.76 (br s, 1 H), 7.78 (d, J=8.8 Hz, 2 H), 7.41-7.27 (m, 2 H), 6.80 (dd, J=8.8, 1.8 Hz, 2 H), 4.67 (br s, 1 H), 3.78 (s, 3 H), 3.76 (t, J=4.8 Hz, 2 H), 3.50 (t, J=4.6 Hz, 2 H). Anal. Calcd for C17H16F2N2O5: C, 55.7; H, 4.4; N, 7.7. Found: C, 55.7; H, 4.4; N, 7.6. Step B: Preparation of 4-[[2,3-difluoro-6-[[(2-hydroxyethoxy)amino]carbonyl]-phenyl]amino]benzoic acid

reactant | 2,3,4-Trifluorobenzoic acid | FC1=C(C(=O)O)C=CC(=C1F)F | C7H3F3O2
reactant | methyl 4-aminobenzoate | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 3,4-difluoro-2-[[4-(methoxycarbonyl)-phenyl]amino]benzoic acid | FC=1C(=C(C(=O)O)C=CC1F)NC1=CC=C(C=C1)C(=O)OC | C15H11F2NO4
